US05202440
9-Amino-1,2,3,4-tetrahydro-1,4-methanoacridine
A solution of anthranilonitrile (3.6 g, 30.0 mmole), norcamphor (3.3 g, 30.0 mmole) and para-toluenesulfonic acid (50 mg) in benzene (50 ml) was heated to reflux using a Dean Stark apparatus. After heating for 18 hours, the reaction mixture was then cooled (25° C.) and the separated water (about 1.5 ml) was withdrawn. The excess benzene was then removed under vacuum (1 mm Hg, 15 minutes). The oily residue thus obtained was dissolved in tetrahydrofuran (THF, 10 ml) and was cooled to 0° C. and a solution of lithium diisopropylamide in THF (1M, 36 ml, 36 mmole) was then added. This reaction mixture was then stirred at 0° C. for 3 hours. At the end of this period, the reaction mixture was quenched with 40 ml of water and was extracted with methylene chloride (200 ml). The resulting organic phase was washed with water (2×50 ml) and dried (anhydrous MgSO4). The methylene chloride was removed under vaccum to afford a residue which was loaded on a silica gel flash chromatography column. Elution with 5% methanol in methylene chloride containing 1% triethylamine afforded the title compound 1.6 g, 25%) as an oil which solidified on standing (m.p. 185°-186° C.). 1H-NMR (CDCl3, 300 MHz, δ): 2H, m, 1.22-1.42 ppm; 1H, d, 1.64 ppm (J=7.0 Hz); 1H, d, 1.86 ppm (J=6.0 Hz); 2H, m, 1.9-2.04 ppm; 2H, bd, 3.46 ppm; 2H, bs, 4.49 ppm; 1H, t, 7.38 ppm (J=6.0 Hz); 1H, t, 7.55 ppm (J=6.0 Hz); 1H, d, 7.67 ppm (J=6.0 Hz); 1H, d, 7.92 ppm (J=6.0 Hz).

reactant | anthranilonitrile | 30.0 mmole, 3.6 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | norcamphor | 30.0 mmole, 3.3 g | C1CC2CC1CC2=O | C7H10O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | para-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 36 mmole, 1M, 36 ml | O1CCCC1 | C4H8O
product | 9-Amino-1,2,3,4-tetrahydro-1,4-methanoacridine | 1.6 g, 25% | NC=1C2=CC=CC=C2N=C2C3CCC(C12)C3 | C14H14N2
